US08138189B2
Step 3: 5-[2-(2-Chloro-5-methoxy-phenyl)-propionyl]-1-methyl-1H-pyridin-2-one
To a suspension of 5-[2-(2-chloro-5-methoxy-phenyl)-acetyl]-1-methyl-1H-pyridin-2-one (9.35 g) in tetrahydrofuran (110 ml) was added sodium hydride (60% dispersion in mineral oil, 1.35 g) in three portions. The mixture was stirred at 40° C. for 1 h and then placed in an ice bath. Methyl iodide (5.01 g) was added dropwise. The mixture was stirred at 0° C. for 10 min and at room temperature for 2 h. Ethyl acetate was added and the mixture was washed with water and brine. The organic phase was dried (MgSO4), filtered and concentrated to dryness. The residue was washed with cyclohexane, filtered and dried to give the title compound as an off-white solid (9.45 g). MS (m/e)=306.2 [M+H+].

reactant | 5-[2-(2-chloro-5-methoxy-phenyl)-acetyl]-1-methyl-1H-pyridin-2-one | 9.35 g | ClC1=C(C=C(C=C1)OC)CC(=O)C=1C=CC(N(C1)C)=O | C15H14ClNO3
reactant | sodium hydride | 1.35 g | [H-].[Na+]
reactant | Methyl iodide | 5.01 g | CI | CH3I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
product | 5-[2-(2-Chloro-5-methoxy-phenyl)-propionyl]-1-methyl-1H-pyridin-2-one | 9.45 g | ClC1=C(C=C(C=C1)OC)C(C(=O)C=1C=CC(N(C1)C)=O)C | C16H16ClNO3
